US07273954B2
Production of 4,4′-(1-methylethane-1,1-diyl)-bis(benzaldehyde)
In a 100 ml reactor containing argon gas, 2.24 g of 1,1′-(1-methylethane-1,1-diyl)-bis-(4-methylbenzene) (CAS Registration No. 1823-31-0) [10 mmol] is dissolved in 39.2 ml of acetonitrile, with the addition of 0.8 ml of dimethyl sulfoxide [11.2 mmol] at 75° C. To the solution, 60 mg of Cu(OAc)2, 30 mg of FeSO4.7H2O and 10 ml of water are added. Next, while stirring forcefully, 10.8 g of Na2S2O8, dissolved in 30 ml of water, are then added drop by drop. The reaction is ended after 100 minutes. The organic phase is extracted to exhaustion with ethyl acetate.

reactant | 1,1′-(1-methylethane-1,1-diyl)-bis-(4-methylbenzene) | 2.24 g | CC(C)(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C17H20
reactant | dimethyl sulfoxide | 11.2 mmol, 0.8 ml | CS(=O)C | C2H6OS
reactant | Na2S2O8 | 10.8 g | [O-]S(=O)(=O)OOS(=O)(=O)[O-].[Na+].[Na+]
reactant | water | 30 ml | O | H2O
reactant | water | 10 ml | O | H2O
solvent | acetonitrile | 39.2 ml | C(C)#N | C2H3N
catalyst | Cu(OAc)2 | 60 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 4,4′-(1-methylethane-1,1-diyl)-bis(benzaldehyde) | CC(C)(C1=CC=C(C=O)C=C1)C1=CC=C(C=O)C=C1 | C17H16O2
